US04642313
1.0 g of 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid, 1.0 g of 2-chloro-1-methylpyridinium iodide and 0.24 g of isopropanol are dissolved in 30 ml of tetrahydrofuran, and 0.8 g of triethylamine is added dropwise thereto. The mixture is stirred at room temperature for 10 hours. Water is added to the mixture, and the aqueous mixture is evaporated under reduced pressure to remove tetrahydrofuran. The residue is extracted with ethyl acetate, and the extract is washed with an aqueous 20% citric acid solution, an aqueous sodium bicarbonate solution and water, successively. Then, the extract is dried and then evaporated under reduced pressure to remove solvent. The residue is recrystallized from ethanol, whereby 0.5 g of isopropyl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate is obtained. Yield: 43.6%

reactant | 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid | 1.0 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C15H10ClNO4
reactant | 2-chloro-1-methylpyridinium iodide | 1.0 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | isopropanol | 0.24 g | C(C)(C)O | C3H8O
reactant | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | isopropyl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate | 0.5 g, Yield: 43.6% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OC(C)C)C=1OC=CC1 | C18H16ClNO4
